US07446216B2
5-Bromo-2-methyl-1,2,6,7,8,9-hexahydro-3H-cyclopenta[a]naphthalen-3-one
In a three-necked round-bottom 500 ml flask equipped with a reflux condenser, dropping funnel with pressure-equalizing, and mechanical stirrer a solution of 55.0 g (0.275 mol) of 2-methyl-1,2,6,7,8,9-hexahydro-3H-cyclopenta[a]naphthalen-3-one in 50 ml of CH2Cl2 was added dropwise with vigorous stirring for 1 h at −10° C. to a suspension of 92 g (0.69 mol) of AlCl3 in 100 ml of CH2Cl2. This mixture was stirred additionally for 1 h at this temperature; then 14.2 ml (44.0 g, 0.275 mol) of bromine was added dropwise with vigorous stirring for 1 h. The resulting mixture was stirred for 2 h at −10° C. and then overnight at ambient temperature, and, then, it was poured on 1000 cm3 of cold water. The organic layer was separated, the aqueous layer was extracted with 3×200 ml of methyl-tert-butyl ether. The combined extract was washed with saturated aqueous Na2SO3 to eliminate bromine and with aqueous Na2CO3. It was then dried over K2CO3, and evaporated to dryness. Fractional distillation gave a yellowish liquid, b.p. 195-198° C./4 mm Hg. Yield 58.3 g (76%).

reactant | 2-methyl-1,2,6,7,8,9-hexahydro-3H-cyclopenta[a]naphthalen-3-one | 0.275 mol, 55.0 g | CC1C(C=2C(=C3CCCCC3=CC2)C1)=O | C14H16O
reactant | AlCl3 | 0.69 mol, 92 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | bromine | 0.275 mol, 14.2 ml, 44.0 g | BrBr | Br2
reactant | water | 1000 cm3 | O | H2O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2-methyl-1,2,6,7,8,9-hexahydro-3H-cyclopenta[a]naphthalen-3-one | BrC=1C=C2C(=C3CCCCC13)CC(C2=O)C | C14H15BrO
